US07932284B2
3-Amino-5-bromo-pyridine-2-carboxylic acid amide:
Add NaBH4 (0.663 g, 17.5 mmol) in small portions to a methanol solution (50 mL) of 5-bromo-2-cyano-3-nitropyridine (2.00 g, 8.77 mmol) and nickel (II) acetate tetrahydrate (4.37 g, 17.5 mmol) at 0° C. After stirring at room temperature for 20 min, add water and EtOAc. Pass the mixture through a pad of celite. Extract with EtOAc. Dry the combined EtOAc extracts over MgSO4. Purify the crude product using silica gel chromatography to give 0.75 g (40% yield) of 3-amino-5-bromo-pyridine-2-carboxylic acid amide. MS 216.0/218.0 (M+H) 5-Bromo-3-fluoro-pyridine-2-carboxylic acid amide: Stir a solution of 3-Amino-5-bromo-pyridine-2-carboxylic acid amide (0.75 g, 3.47 mmol) and nitrosonium tetrafluoroborate (0.487 g, 4.16 mmol) in dichloromethane (50 ml) at 23° C. for 18 hours. Evaporate the solvent. Azeotrope the residue with toluene. Suspend the residue in toluene (20 ml) and reflux for 2 hours. Concentrate the mixture and purify the crude product by silica chromatography (10-100% EtOAc/Hexane) to afford 5-bromo-3-fluoro-pyridine-2-carboxylic acid amide (0.378 g, 50%). MS: M+H=221.0. 5-Bromo-2-cyano-3-fluoro-pyridine: Stir a mixture of 5-bromo-3-fluoro-pyridine-2-carboxylic acid amide (0.375 mg, 1.71 mmol) and NaCl (0.120 g, 2.05 mmol) in CH2Cl2 (20 ml). After 15 minutes, add POCl3 (0.795 ml, 8.55 mmol) and reflux the mixture overnight. Cool the mixture to room temperature, and dilute with CH2Cl2; wash with saturated NaHCO3 solution, dry over (MgSO4). Purify the crude product using silica chromatography (0-50% EtOAc/Hexane) to produce 0.25 g (73% yield) of 5-bromo-2-cyano-3-fluoro-pyridine. 5-Bromo-2-cyano-3-methoxy-pyridine: Mix sodium methoxide (141 mg, 2.61 mmol) and 5-bromo-2-cyano-3-fluoro-pyridine (105 mg, 0.52 mmol) in THF (5 mL) and reflux for 18 h. Add pH 7 phosphate buffer solution and extract with EtOAc. Dry the EtOAc extracts over MgSO4. Remove the drying agent and evaporate the filtrate. Purify the crude product using a silica gel chromatography and elute with EtOAc/hexane (0 to 30%) to give 77 mg (69% yield) of 5-bromo-2-cyano-3-methoxy-pyridine. 5-Bromo-2-cyano-3-chloro-pyridine: Add NaNO2 (83.0 mg, 1.20 mmol) to a suspension of 3-amino-5-bromo-2-cyanopyridine (198 mg, 1.00 mmol) in 37% HCl (2.00 ml) and H2O (0.5 ml) at 0° C. and stir for 1 hour. Add copper powder (15 mg) and reflux the mixture for 30 minutes. Cool the mixture and, quench with ice, basify with 5N NaOH. Extract with EtOAc and wash the organic extract with brine, dry over MgSO4. Purify crude product using silical gel chromatography and elute with (0-30% EtOAc/Hex) to produce 110 mg (50% yield) of 5-bromo-2-cyano-3-chloro-pyridine. 4-Bromo-naphthalene-1-carbonitrile: Sonicate a suspension of 4-bromo-naphthalen-1-ylamine (0.974 g, 4.386 mmol) in water (6 mL) and concentrated HCl (2 mL) for 10 minutes. Cool the resulting suspension to 0° C. Slowly add sodium nitrite (0.336 g, 4.869 mmol) in water (2 mL) at a rate to maintain the temperature below 5° C. Stir the resulting mixture for 30 minutes, and then neutralized with solid sodium bicarbonate. Add the resulting solution portion-wise to a solution of potassium cyanide (0.717 g, 11.010 mmol) and copper cyanide (0.464 g, 5.181 mmol) in water (10 mL). A precipitate forms. Heat the reaction mixture to 70° C. for 30 minutes, then extract the aqueous reaction mixture with ethyl acetate (3×20 mL). Combine the organics layers and wash sequentially with water (30 mL), saturated ammonium chloride (30 mL), and sodium bicarbonate (30 mL). Dry the resulting organic layers with (Na2SO4); remove the solids by filtration; and concentrate the filtrate in vacuo. Purify the resulting residue by flash chromatography with a gradient of hexanes to 20% ethyl acetate in hexanes to afford 0.864 g (85%) of 4-bromo-naphthalene-1-carbonitrile as a light brown solid. 1H NMR (CDCl3) δ 8.314 (dd, 1H, J=2.4, 7.0 Hz), 8.235 (dd, 1H, J=2.4, 7.0 Hz), 7.836 (d, 1H, J=7.6 Hz), 7.728 (m, 3H). 4-Bromo-2-fluoro-benzamide: Charge a flask with acidic alumina (Al2O3) (3.03 g, 29.718 mmol) and methanesulfonic acid (10 mL). Heat the resulting solution to 120° C., and add 4-bromo-2-fluorobenzonitrile (2.00 g, 9.999 mmol) in one portion. Stir the resulting mixture for 30 minutes, then cool the reaction to room temperature and pour it into water (50 mL). Extract the aqueous mixture with dichloromethane (3×30 mL). Combine the organic extracts; dry over (Na2SO4); remove the solids by filtration; and concentrate the filtrate in vacuo, affording 2.14 g (98%) 4-bromo-2-fluoro-benzamide as a white solid. 1H NMR (DMSO-ds) δ 7.706 (d, 2H, J=21.1 Hz), 7.598 (dd, 1H, J=1.9, 10.1 Hz), 7.557 (dd, 1H, J=8.0, 8.0 Hz), 7.446 (ddd, 1H, J=0.4, 1.9, 8.1 Hz). 5-(4-Bromo-2-fluoro-phenyl)-1H-tetrazole: Charge a flask with 4-bromo-2-fluoro benzonitrile (3.0 g, 15.0 mmol) and azidotributyltin (10 g, 30.0 mmol). Heat the mixture to 80° C. for 24 hours, then cool the reaction mixture and dilute it with 15 mL of diethyl ether. Pour the resulting solution into 15 mL of diethyl ether saturated with gaseous hydrochloric acid. Remove the resulting solid by filtration and wash the solids with hexanes to afford 3.1 g (85%) of the title material. LRMS (API ES+)=243.0 (M+H). 5-(4-Bromo-2-fluoro-phenyl)-1-methyl-1H-tetrazole: Add dry DMF to sodium hydride (0.2 g, 4.8 mmol), which was previously washed three times with hexanes, Cool the resulting suspension to 0° C. and add 5-(4-Bromo-2-fluoro-phenyl)-1H-tetrazole (1.0 g, 4.4 mmol) portion wise. Stir the mixture for 30 minutes then add methyl iodide (0.68 g, 4.8 mmol), and continue to stir the reaction at room temperature; monitor the reaction via TLC. When complete, quench the reaction with 10% NaHSO4 (50 mL); dilute with ethyl acetate (50 mL); and separate the layers. Extract the aqueous layer three times with ethyl acetate (25 mL). Combine the organic layers; and dry over MgSO4. Remove the solids by filtration and concentrate the filtrate in vacuo. Chromatograph the residue on a silica gel column eluting with 20% ethyl acetate in hexanes to afford 0.68 g (65%) of the title material. LRMS (API ES+)=239.0 (M+H). 5-Bromo-4-methyl-2-thiophene carboxamide: Combine methyl 5-bromo-4-methyl-2-thiophene carboxylate (5.0 g, 1.0 equiv, 21.2 mmol) and 7N NH3 in MeOH (50 mL) in a flask. Heat the mixture in a sealed tube to 100° C. for 18 hours. Purify the residue on silica gel using 30% EtOAc/hex elution stepping to 80% EtOAc/hex elution. Isolated 0.7 g (64%). LRMS (API ES+)=221.8 (M+H). 5-Bromo-4-methyl-2-thiophene carbonitrile: Combine 5-bromo-4-methyl-2-thiophene carboxamide (1.2 g, 1.0 equiv., 5.4 mmol) and POCl3 (30 mL) in a flask. Stir the mixture at room temperature for 18 hours. Purify the residue on silica gel using 30% EtOAc/hex elution to provide the title compound (0.7 g, 64%). 1H NMR (CDCl3) δ 7.27 (s, 1H), 2.17 (s, 3H). 4-Bromo-3-methyl-2-thiophene carboxamide: Combine 4-bromo-3-methyl-2-thiophene carboxylic acid (2.0 g, 1.0 equiv, 9.0 mmol) and thionyl chloride (30 mL) in a flask. Stir the mixture at room temperature for 18 hours. Concentrate the resulting mixture in vacuo and then suspend the residue in 7N NH3 in MeOH (50 mL). Stir for 1 hour. Concentrate in vacuo to afford 1.9 g (100%) of the title compound. LRMS (API ES+)=221.8 (M+H). 4-Bromo-3-methyl-2-thiophene carbonitrile: Dissolve 4-bromo-3-methyl-2-thiophene carboxamide in 30 mL of POCl3 and allow the mixture to stir at room temperature for 18 hours. Then concentrate the reaction in vacuo; and purify the residue by chromatography (silica gel, 5% ethyl acetate/hexane) to give the title compound (0.9 g, 49%). 1H-NMR (CDCl3) δ 9.44 (S, 1H), 4.40 (S, 3H). 4-Bromo-2-fluoro-6-methoxy-benzonitrile: Method DF1 Dissolve 4-bromo-2,5-difluoro-benzonitrile (1.5 g, 6.9 mmol) in THF (10 mL). Add NaOMe (1.9 g, 25% by wt solution in MeOH, (8.3 mmol). Stir the reaction mixture overnight at room temperature. Concentrate in vacuo and purify by silica gel chromatography (0-50% EtOAc/hexanes/30 min gradient). Concentrate the selected fractions in vacuo to afford the title compound (1.5 g, 94%) as a white solid. 1H-NMR is consistent with structure. TLC (20% EtOAc/hexanes) Rf=0.28. 4-Bromo-2-fluoro-6-methoxy-benzaldehyde: Method DF2 Dissolve 4-bromo-2-fluoro-6-methoxy-benzonitrile (1.15 g, 5.0 mmol) in dichloromethane (50 mL) and cool to 0° C. Add DIBAL (6.0 mL, 1.0 N in methylene chloride 1.2 mmol). Stir the reaction mixture for about 1 hour at 0° C. Add 5N HCl (20 mL) and stir the resulting solution for about 10 min. Extract with dichloromethane, wash with brine, dry over Na2SO4, filter and concentrate in vacuo. Purify by silica gel chromatography (0-50% EtOAc/hexanes/30 min gradient). Concentrate the selected fractions in vacuo with no heat to afford the title compound (485 mg, 44%) as a white solid. 1H-NMR is consistent with structure. 5-Bromo-2-difluoromethyl-1-fluoro-3-methoxy-benzene: (Method DF3) Dissolve 4-bromo-2-fluoro-6-methoxy-benzaldehyde (485 mg, 2.0 mmol) in dichloromethane (5 mL); add DAST (0.3 mL, 2.2 mmol) and reflux overnight in sealed tube. Cool to room temperature and transfer directly to silica gel chromatography loading cartridge. Purify by silica gel chromatography (0-50% EtOAc/hexanes/30 min gradient) and concentrate in vacuo to give the title compound (353 mg, 70% yield) as a colorless oil. TLC (20% EtOAc/hexanes) Rf=0.50. 1H-NMR is consistent with structure. 2-Bromo-5-ethynyl-trimethyl-silane-pyridine: Reflux a mixture of 2-bromo-5-iodo-pyridine (1 g, 3.5 mmol), ethynyl-trimethyl-silane (360 mg, 3.67 mmol), copper (I) iodide (20 mg, 0.1 mmol) and tetrakis (triphenylphosphine) palladium (0) (121 mg, 0.01 mmol) in triethyl amine (10 mL) under N2 in a sealed tube for 3 days. Evaporate the solvent. Purification of the crude residue using silica gel chromatography gave 800 mg (90%) of the desired product. 4-bromo-2-thiophenecarbonitrile: Reflux 4-bromo-2-thiophenecarboxylic acid (960 mg, 4.63 mmol) in SOCl2 (5 mL) for 1 h. Evaporate excess SOCl2. Add THF (5 mL) to the residue. Slowly drop the resulting solution to conc NH4OH (15 mL) in ice bath. Stir the mixture overnight. Concentrate the mixture, followed by addition of EtOAc, wash with brine; and dry over MgSO4; filter and concentrate in vacuo. Add NaCl (307 mg, 5.26 mmol) and dichloromethane (10 mL) to the residue and reflux for 30 min. After the addition of POCl3 (3.36 g, 21.9 mmol), reflux the mixture for 1 h. Dilute the mixture with dichloromethane and wash with aqueous NaHCO3 solution, brine and dry over MgSO4; filter and concentrate in vacuo to provide 753 mg of the desired product. 4-Bromo-2,6-dimethyl-benzonitrile: Place 4-Bromo-2,6-dimethyl-phenylamine (4.49 g, 22.4 mmol), water (25 mL) and concentrated hydrochloric acid (8.0 mL) in a three-neck flask and sonicate until a fine suspension results. Cool the suspension to 0° C. and add a solution of sodium nitrite (1.67 g, 24.2 mmol) in water (5 mL) dropwise to maintain a reaction temperature below 5° C. Stir the reaction at 0° C. for 30 minutes after the addition is complete. Carefully neutralize the reaction with solid sodium bicarbonate. Add the neutralized reaction portionwise to a round bottom flask containing copper (I) cyanide (2.42 g, 27.0 mmol), potassium cyanide (3.65 g, 56.1 mmol) and water (25 mL) at 70° C. Stir the resulting solution for 30 minutes at 70° C. Cool reaction to ambient temperature and extract with toluene (75 mL×3). Combine the organic layers and wash with water and brine. Dry over sodium sulfate and concentrate in vacuo. Purify by flash chromatography (2 to 20% ethylacetate in hexane) to give 4-Bromo-2,6-dimethyl-benzonitrile (3.36 g, 15.99 mmol, 71%). 1H NMR (CDCl3) δ7.50 (s, H), 2.46 (s, 6H). 4-Bromo-2-chloro-6-methyl-benzonitrile: Prepare in substantially the same manner as 4-Bromo-2,6-dimethyl-benzonitrile from 4-bromo-2-chloro-6-methyl-phenyl amine. 1H NMR (DMSO-d6) δ 7.52 (s, 1H), 7.38 (s, 1H) 2.53 (s, 3H). 4-Bromo-2,6-dichloro-benzonitrile: Prepare in substantially the same manner as 4-Bromo-2,6-dimethyl-benzonitrile from the phenyl amine. 1H NMR (CDCl3) δ 7.59 (s, 2H). 4-Bromo-3-methoxy-benzonitrile: Prepare in substantially the same manner as 4-Bromo-2,6-dimethyl-benzonitrile from the phenyl amine. 1H NMR (CDCl3) δ 7.62 (d, 1H, J=7.9 Hz), 7.09 (dd, 1H, J=7.9 Hz, 1.8 Hz), 7.07 (d, 1H, J=1.8 Hz), 3.91 (s, 3H). 4-Bromo-2-fluoro-5-methyl-benzonitrile: Prepare in substantially the same manner as 4-Bromo-2,6-dimethyl-benzonitrile. 1H NMR (CDCl3) δ 7.46 (m, 2H), 2.40 (s, 3H).

reactant | 5-Bromo-4-methyl-2-thiophene carboxamide | BrC1=C(C=C(S1)C(=O)N)C | C6H6BrNOS
reactant | methyl 5-bromo-4-methyl-2-thiophene carboxylate | 21.2 mmol, 5.0 g, 1.0 equiv | BrC1=C(C=C(S1)C(=O)OC)C | C7H7BrO2S
reactant | NH3 | 7N | N | H3N
reactant | 5-Bromo-4-methyl-2-thiophene carbonitrile | BrC1=C(C=C(S1)C#N)C | C6H4BrNS
reactant | 5-bromo-4-methyl-2-thiophene carboxamide | 5.4 mmol, 1.2 g, 1.0 equiv. | BrC1=C(C=C(S1)C(=O)N)C | C6H6BrNOS
reactant | POCl3 | 30 mL | O=P(Cl)(Cl)Cl | Cl3OP
solvent | MeOH | 50 mL | CO | CH4O
product | 3-Amino-5-bromo-pyridine-2-carboxylic acid amide | 0.7 g, 64% | NC=1C(=NC=C(C1)Br)C(=O)N | C6H6BrN3O
